US07342115B2
SOCl2 (0.5 mL) is added to a solution of 4-[6-(2,6-diethyl-phenyl)-4-methoxy-pyridin-3-yl]-heptan-4-ol in anhydrous pyridine (5 mL) at 0° C. under nitrogen. The resulting mixture is stirred at room temperature overnight. The volatile materials are removed in vacuo. The residue is treated with water (5 mL), aqueous Na2CO3 (5 mL), and ether. The organic layer is separated and the aqueous is extracted with ether (2×10 mL). The combined extract is washed with brine, dried, and concentrated in vacuo. The crude is purified by PTLC (8:1 hexane/EtOAc) to give 2-(2,6-diethyl-phenyl)-4-methoxy-5-(1-propyl-but-1-enyl)-pyridine. 1H NMR (CDCl3) 8.26 (s, 1H), 7.29 (t, 1H), 7.16 (d, 2H), 6.72 (s, 1H), 5.55 (t, 1H), 3.82 (s, 3H), 2.22-2.37 (m, 8H), 1.30 (m, 2H), 0.87-1.10 (m, 9H).

reactant | SOCl2 | 0.5 mL | O=S(Cl)Cl | Cl2OS
reactant | 4-[6-(2,6-diethyl-phenyl)-4-methoxy-pyridin-3-yl]-heptan-4-ol | C(C)C1=C(C(=CC=C1)CC)C1=CC(=C(C=N1)C(CCC)(CCC)O)OC | C23H33NO2
solvent | pyridine | 5 mL | N1=CC=CC=C1 | C5H5N
product | 2-(2,6-diethyl-phenyl)-4-methoxy-5-(1-propyl-but-1-enyl)-pyridine | C(C)C1=C(C(=CC=C1)CC)C1=NC=C(C(=C1)OC)C(=CCC)CCC | C23H31NO
